US09029544B2
(3′S,9′S)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinolin]-9′-ol
120 μl of a 1 M solution of lithium aluminiumhydride in tetrahydrofurane are added dropwise to 55 mg (S)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-7′,8′-dihydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinolin]-9′(6′H)-one in 2 ml tetrahydrofurane at room temperature. The mixture is stirred for 2 hours and then cooled to 0° C. 10 μl water and 10 μl 4 N solution of sodium hydroxide in water are added successively and the mixture is stirred for further 30 minutes. Then the mixture is diluted with ethylacetate and dried with magnesium sulphate. The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 90:10 to 50:50).

reactant | lithium aluminiumhydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-7′,8′-dihydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinolin]-9′(6′H)-one | 55 mg | C(C)(C)C1=NC=2CC(CC(C2C2=C1[C@@H](OC21CCCC1)C1=CC=C(C=C1)C(F)(F)F)=O)(C)C | C27H30F3NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | water | 10 μl | O | H2O
product | (3′S,9′S)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinolin]-9′-ol | C(C)(C)C1=NC=2CC(C[C@@H](C2C2=C1[C@@H](OC21CCCC1)C1=CC=C(C=C1)C(F)(F)F)O)(C)C | C27H32F3NO2
